US06329392B1
1-(3,4,5-Trimethoxy-benzoyl)-3-[2-[4-[1-(imidazol-2-ylmethyl)-1H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-phenyl-pyrrolidine
Combine 1-(3,4,5-trimethoxy-benzoyl)-3-[2-[4-[1-(1-benzyl-imidazol-2-ylmethyl)-1H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-phenyl-pyrrolidine (5 mmol) and 10% palladium-on-carbon (1.5 g) in methanol (50 mL). Add anhydrous ammonium formate (25 mmol). Heat to reflux. After 18 hours, filter, rinse with dichloromethane, and evaporate the filtrate in vacuo to give the title compound.

reactant | 1-(3,4,5-trimethoxy-benzoyl)-3-[2-[4-[1-(1-benzyl-imidazol-2-ylmethyl)-1H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-phenyl-pyrrolidine | 5 mmol | COC=1C=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCC(CC2)C(=O)C2=NC3=C(N2CC=2N(C=CN2)CC2=CC=CC=C2)C=CC=C3)C=C(C1OC)OC | C46H50N6O5
reactant | ammonium formate | 25 mmol | C(=O)[O-].[NH4+]
solvent | methanol | 50 mL | CO | CH4O
catalyst | palladium-on-carbon | 1.5 g | [Pd] | Pd
product | 1-(3,4,5-Trimethoxy-benzoyl)-3-[2-[4-[1-(imidazol-2-ylmethyl)-1H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-phenyl-pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCC(CC2)C(=O)C2=NC3=C(N2CC=2NC=CN2)C=CC=C3)C=C(C1OC)OC | C39H44N6O5
